US07371743B2
(a) methyl 4-(5-chloropentyl-sulphonyl-amino)-3-methyl-benzoate
Prepared analogously to Example 83a from methyl 4-amino-3-methyl-benzoate and 5-chloropentyl-sulphonic acid chloride in pyridine.

reactant | methyl 4-amino-3-methyl-benzoate | NC1=C(C=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | 5-chloropentyl-sulphonic acid chloride | ClCCCCCS(=O)(=O)Cl | C5H10Cl2O2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl 4-(5-chloropentyl-sulphonyl-amino)-3-methyl-benzoate | ClCCCCCS(=O)(=O)NC1=C(C=C(C(=O)OC)C=C1)C | C14H20ClNO4S
